US09107415B2
Synthesis of 2-(2,6-dichloro-4-prop-1-ynyl-phenyl)-4-(2-pyridylmethyl)cyclopentane-1,3-dione (Compound A-32)
A mixture of 2-(2,6-dichloro-4-prop-1-ynyl-phenyl)-3-methoxy-5-(2-pyridylmethyl)cyclopent-2-en-1-one (41 mg, 0.106 mmol) and morpholine (1 ml) were heated at 10°C. for 4 hours. The reaction was cooled to room temperature and evaporated to dryness under reduced pressure. The residue was partitioned between EtOAc (10 ml) and saturated aqueous NH4Cl (10 ml). The organic phase was washed with further saturated aqueous NH4Cl (5 ml), brine (5 ml), dried over MgSO4, filtered and evaporated to dryness under reduced pressure. The crude product was purified on the FractionLynx to give the desired product (14 mg, 36%). 1H NMR (400 MHz, CDCl3) δ ppm 8.50 (d, 1H), 7.85 (dd, 1H), 7.40 (d, 1H), 7.35-7.30 (m, 3H), 6.10 (br, 1H), 3.40-3.25 (m, 3H), 3.05 (dd, 1H), 2.40 (dd, 1H), 2.05 (s, 3H).

reactant | 2-(2,6-dichloro-4-prop-1-ynyl-phenyl)-3-methoxy-5-(2-pyridylmethyl)cyclopent-2-en-1-one | 0.106 mmol, 41 mg | ClC1=C(C(=CC(=C1)C#CC)Cl)C=1C(C(CC1OC)CC1=NC=CC=C1)=O | C21H17Cl2NO2
reactant | morpholine | 1 ml | N1CCOCC1 | C4H9NO
product | 2-(2,6-dichloro-4-prop-1-ynyl-phenyl)-4-(2-pyridylmethyl)cyclopentane-1,3-dione | 14 mg, 36% | ClC1=C(C(=CC(=C1)C#CC)Cl)C1C(CC(C1=O)CC1=NC=CC=C1)=O | C20H15Cl2NO2
